
simulator lang = spectre

library gpdk090

section ALL
subckt gpdk090_nmos1v_iso (n1 n2 n3 n4 n5)
parameters w=120n l=100n as=69.6f ad=69.6f ps=1.04u pd=1.04u multi=1 region="triode"
MAIN (n1 n2 n3 n4) gpdk090_nmos1v  w=w l=l as=as ad=ad ps=ps pd=pd m=multi
DIODE (n4 n5) gpdk090_nwdio_D area=as*ad pj=ps+pd
ends gpdk090_nmos1v_iso
endsection ALL

endlibrary
